US04061656
All trans-3,7-dimethyl-9-(3-methyl-5-methoxy-2-thienyl)-2,4,6,8-nonatetraenoic acid ethyl ester
A suspension of 5.9 g. (13.5 mmol) of (3-methyl-5-methoxy-2-thenyl)triphenyl phosphonium chloride and 2.81 g. (13.5 mmol) of ethyl-7-formyl-3-mehtyl-2,4,6-octatrienoate in 70 ml. of butylene oxide and 200 ml. of toluene was heated to 100° C. for 14 hrs. The resulting clear solution was cooled, poured into 500 ml. of a methanol/water mixture (6:4) and extracted with hexane. The combined hexane extracts were washed with methanol/water (6:4), dried and evaporated. The resulting crude, oily material was purified by chromatography (silica gel, hexane/ether, ratio 7:3) to yield after recrystallization from hexane all trans-3,7-dimethyl-9-(3-methyl-5-methoxy-2-thienyl)-2,4,6,8-nonatetraenoic acid ethyl ester, m.p. 66°-72° C.

reactant | (3-methyl-5-methoxy-2-thenyl)triphenyl phosphonium chloride | 13.5 mmol | [Cl-].CC1=C(SC(=C1)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl-7-formyl-3-mehtyl-2,4,6-octatrienoate | 13.5 mmol | C(C)OC(C=C(C=CC=C(C)C=O)C)=O | C12H16O3
reactant | butylene oxide | C1CCCO1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | trans-3,7-dimethyl-9-(3-methyl-5-methoxy-2-thienyl)-2,4,6,8-nonatetraenoic acid ethyl ester | C(C)OC(C=C(\C=C\C=C(C=CC=1SC(=CC1C)OC)C)C)=O | C19H24O3S
